US08053581B2
Step 5: Preparation of 4-(4-methoxy-phenyl)-5-(4-nitro-benzyl)-thiazol-2-ylamine
To a 50 ml eggplant-shaped flask were added 0.45 g (1.24 mmol) 2-bromo-1-(4-methoxy-phenyl)-3-(4-nitro-phenyl)-propan-1-one prepared in the step 4 and 15 ml anhydrous ethanol, added 94 mg (1.24 mmol) thiourea and 101 mg (1.24 mmol) anhydrous sodium acetate under stirring. The resulting mixture was refluxed for 3 hours, distilled under a reduced pressure to remove the solvent, added 20 ml ethyl acetate and 20 ml 5% NaHCO3 aqueous solution, the organic layer was separated, washed with saturated brine until neutrality, dried over anhydrous sodium sulfate, filtered and concentrated to give a crude product, which was recrystallized with ethyl acetate to obtain a 0.34 product in a yield of 79.1%, mp: 209-210 └(Dec.). 1H-NMR (DMSO-d6, 400 MHz) δ: 3.34 (3H, s, OCH3), 4.20 (2H, s, CH2), 6.93 (2H, s, NH2), 6.95 (2H, d, J=8.72 Hz, ArH), 7.43˜7.46 (4H, m, ArH), 8.19 (2H, d, J=8.72 Hz, ArH); EI-MS m/e (%): 341.2 (M+, 100), 219.1 (14); HREI-MS Calcd. for C17H15N3O3S: 341.0834. found: 341.0834. Anal. Calcd. for C17H15N3O3S: C, 59.81; H, 4.43; N, 12.31. found: C, 59.76; H, 4.36; N, 12.05.

reactant | 2-bromo-1-(4-methoxy-phenyl)-3-(4-nitro-phenyl)-propan-1-one | 1.24 mmol, 0.45 g | BrC(C(=O)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H14BrNO4
reactant | thiourea | 1.24 mmol, 94 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.24 mmol, 101 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(4-methoxy-phenyl)-5-(4-nitro-benzyl)-thiazol-2-ylamine | yield of 79.1% | COC1=CC=C(C=C1)C=1N=C(SC1CC1=CC=C(C=C1)[N+](=O)[O-])N | C17H15N3O3S
